US09403805B2
To a stirred solution of (2S,4R)-2-(2-bromo-phenylcarbamoyl)-4-tert-butoxy-pyrrolidine-1-carboxylic acid benzyl ester (900 mg, 1.89 mmol) in DME (20 mL) at 25° C. in a sealed tube were added CuI (36 mg, 0.19 mmol), 1,10-phenanthraline (68 mg, 0.38 mmol), and Cs2CO3 (1.847 g, 5.68 mmol). The reaction mixture was refluxed for 14 h. After completion of reaction, water was added, and the mixture was then extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude was then purified by column chromatography to give (2S,4R)-2-benzooxazol-2-yl-4-tert-butoxy-pyrrolidine-1-carboxylic acid benzyl ester (430 mg, 57.5% yield) as a yellowish liquid. MS calcd. for C23H27N2O4 [(M+H)+] 395, obsd. 395.

reactant | (2S,4R)-2-(2-bromo-phenylcarbamoyl)-4-tert-butoxy-pyrrolidine-1-carboxylic acid benzyl ester | 1.89 mmol, 900 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NC1=C(C=CC=C1)Br)=O | C23H27BrN2O4
reactant | Cs2CO3 | 5.68 mmol, 1.847 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | CuI | 0.19 mmol, 36 mg | [Cu]I
product | (2S,4R)-2-benzooxazol-2-yl-4-tert-butoxy-pyrrolidine-1-carboxylic acid benzyl ester | 430 mg, 57.5% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C=1OC2=C(N1)C=CC=C2 | C23H26N2O4
